US05952511
(RS)-3-(Ethoxycarbonylmethyl)-3-((4-methylbenzyl)carbonyl-amino)indolin-2-one
To a solution of 0.72 g of (RS)-3-((4-methylbenzyl)carbonylamino)indolin-2-one in 20 ml of dry dimethyl sulfoxide was added 3 ml of a 1M solution of potassium t-butoxide in dry dimethyl sulfoxide at room temperature under a nitrogen atmosphere, followed by stirring for 30 minutes. To the mixture was added dropwise 0.37 ml of ethyl bromoacetate, followed by stirring at the same temperature for 30 minutes. The reaction mixture was treated with an aqueous solution of sodium chloride and extracted with ethyl ether. The ethyl ether layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=40/1) to give 0.30 g (32%) of the title compound.

reactant | (RS)-3-((4-methylbenzyl)carbonylamino)indolin-2-one | 0.72 g | CC1=CC=C(CC(=O)NC2C(NC3=CC=CC=C23)=O)C=C1 | C17H16N2O2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 0.37 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (RS)-3-(Ethoxycarbonylmethyl)-3-((4-methylbenzyl)carbonyl-amino)indolin-2-one | 0.30 g, 32% | C(C)OC(=O)CC1(C(NC2=CC=CC=C12)=O)NC(=O)CC1=CC=C(C=C1)C | C21H22N2O4
